US07858632B2
To a solution of 5-(4-Amino-2-ethylamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile (0.3 g, 0.92 mmol) in EtOH/H2O (1:1,10 ml) was added a solution of NaOH (0.37 g, 9.17 mmol) in H2O (1 ml). The reaction mixture was heated at 100° C. for 24 hrs and neutralized with 3N HCl. Ethanol was removed in vacuo and the remaining aqueous solution was extracted into methylene chloride. The combined extract was washed with water, dried over Na2SO4, filtered and concentrated. Flash chromatography on silica gel (3 to 8% EtOAc in Hexanes) gave 5-(4-Amino-2-ethylamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzamide (0.086 g, 27% ) as a white solid. (M+H)=346.

reactant | 5-(4-Amino-2-ethylamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile | 0.92 mmol, 0.3 g | NC1=NC(=NC=C1OC=1C(=CC(=C(C#N)C1)OC)C(C)C)NCC | C17H21N5O2
reactant | NaOH | 9.17 mmol, 0.37 g | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | EtOH H2O | 1,10 ml | CCO.O
solvent | H2O | 1 ml | O | H2O
product | 5-(4-Amino-2-ethylamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzamide | 0.086 g, 27% | NC1=NC(=NC=C1OC=1C(=CC(=C(C(=O)N)C1)OC)C(C)C)NCC | C17H23N5O3
